US04925838
To a solution of (2S,4S)-4-acetylthio-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (1.83 g) in methanol (20 ml) was added 28% sodium methoxide in methanol solution (1.50 ml) at -10°~-5° C. and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added acetic acid (0.45 ml) at the same temperature and the mixture was evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-mercapto-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (0.60 g).

reactant | (2S,4S)-4-acetylthio-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 1.83 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C)CN1C(NCC1)=O | C11H19N3O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 0.45 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 1.50 ml | CO | CH4O
product | (2S,4S)-4-mercapto-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 0.60 g | S[C@H]1C[C@H](N(C1)C)CN1C(NCC1)=O | C9H17N3OS
